Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status, admitted to MICU for hypotension
 
Major Surgical or Invasive Procedure:
Suprapubic catheter exchange ___

 
History of Present Illness:
___ with a history of vascular dementia, DM and ESRD on HD on 
___ was found down in his facility covered in feces 
and vomit. His tunneled dialysis catheter had been dislodged and 
was reportedly pushed back in. Per his family, he continues to 
be more confused than his baseline. He usually is alert, 
disoriented, and can follow simple instructions. He is 
non-ambulatory. He has no other symptoms or deficits.

He initially presented to ___ for evaluation of his AMS. He 
had a NCHCT and CXR which were unremarkable. Labs were notable 
for a mild leukocytosis, anemia, thrombocytopenia, lactate of 4, 
and likely contaminated UA from a suprapubic catheter. Without 
an obvious source, he was started on vancomycin and cefepime for 
presumed sepsis. 

 

He was transferred to ___ for replacement of his TDC by ___. He 
has been intermittently hypotensive since presenting to ___ 
with one BP recorded at 84/42 here. His pressures have come back 
up spontaneously without any pressors or fluids.

 

On arrival to the MICU, pt was alert, oriented to self, with 
stable vital signs. He denies any pain or other symptoms. 

 
Past Medical History:
Vascular dementia
T2DM
ESRD on HD
Anemia
BPH
Glaucoma
Blindness
Asthma

 
Social History:
___
Family History:
Unable to obtain given dementia
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 98.5, 106/62, 86 bpm, 19, 100% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No erythema, drainage, or fluctuance at ___ site 
NEURO: Rousable to voice, A&Ox1, follows commands, normal 
strength and sensation in all ext

DISCHARGE PHYSICAL EXAM:
VS: 97.3 116/47 101 20 96 Ra 
GENERAL: NAD
HEENT: AT/NC
CV: RRR; S1/S2; murmur upon auscultation that is not associated
with either beat, thought likely to be radiation from his RUE
fistula
PULM: CTAB on front, breathing comfortably without use of
accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants,
suprapubic catheter c/d/i with no surrounding erythema
EXTREMITIES: no cyanosis, clubbing, or edema. Enlarged R arm
fistula with palpable thrill and bruit present
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. Oriented to person and knows he's in the hospital. 
Says the date is ___
DERM: Warm and well perfused, dry skin over bilateral calves.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:20AM BLOOD WBC-11.3* RBC-2.37* Hgb-7.3* Hct-22.2* 
MCV-94 MCH-30.8 MCHC-32.9 RDW-15.1 RDWSD-51.8* Plt ___
___ 02:20AM BLOOD Neuts-84.7* Lymphs-9.0* Monos-5.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-9.60* AbsLymp-1.02* 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.02
___ 02:20AM BLOOD ___ PTT-22.9* ___
___ 02:20AM BLOOD Glucose-131* UreaN-45* Creat-6.4* Na-133* 
K-5.2 Cl-94* HCO3-23 AnGap-16
___ 02:20AM BLOOD ALT-12 AST-22 AlkPhos-66 TotBili-0.3
___ 02:20AM BLOOD Albumin-3.4* Calcium-8.4 Phos-4.3 Mg-2.0
___ 02:20AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS*
___ 02:20AM BLOOD HCV Ab-NEG
___ 02:32AM BLOOD Lactate-4.0*

PERTINENT INTERVAL LABS:
========================
___ 03:19AM BLOOD ___ 08:42AM BLOOD Ret Aut-3.1* Abs Ret-0.07
___ 03:19AM BLOOD ALT-13 AST-28 LD(LDH)-168 AlkPhos-61 
TotBili-0.5
___ 08:42AM BLOOD calTIBC-148* Ferritn-1513* TRF-114*

DISCHARGE LABS:
===============
___ 08:38AM BLOOD WBC-5.5 RBC-2.60* Hgb-8.1* Hct-25.0* 
MCV-96 MCH-31.2 MCHC-32.4 RDW-16.6* RDWSD-55.3* Plt ___
___ 08:38AM BLOOD Glucose-93 UreaN-9 Creat-3.8* Na-138 
K-3.8 Cl-96 HCO3-30 AnGap-12
___ 08:38AM BLOOD Calcium-8.6 Phos-2.5* Mg-2.0

MICROBIOLOGY:
=============
___ 3:40 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Ertapenem Susceptibility testing requested per 
___ ___) 
         ___.  Ertapenem = SENSITIVE. 
         Ertapenem test result performed by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   256 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S
__________________________________________________________
___ 2:20 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 2:25 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

KEY IMAGING:
============
___ CXR: Hazy opacity of the central right apex could 
represent focal 
consolidation/pneumonia or soft tissue lesion, though it could 
merely be a 
manifestation external, overlying material.. Left central line 
terminating 
within the right atrium and endovascular graft material 
projecting over the 
right apex. 

___ CT Chest: Ectasia of ascending aorta measuring 3.9 x 
4.1cm. Punctuate bilateral pulmonary nodules likely 
postinflammatory.

___ Ct Abd and Pelvis w/o Contrast: 
No evidence of retroperitoneal hemorrhage.
Cholelithiasis
Atrophy bilateral kidneys and moderate left-sided 
hydrouteronephrosis with no obstructive lesion or calculus 
noted. Fluid and gas filled tract extending from bladder to the 
anterior abdominal wall, likely from recent placement of a 
suprapubic catheter.

___ CT Chest: OSH - Image only, official report not 
available
___ CT Head: OSH - Image only, per report no acute 
intracranial abnormality
 
Brief Hospital Course:
========
SUMMARY
========
___ yo M with hx of vascular dementia, h/o ESBL UTIs, T2DM, ESRD 
on HD TTS, found down in his facility, who was admitted for 
altered mental status/hypotension and concern for dislodged 
tunneled dialysis catheter, found to have E. coli UTI, was 
transferred to MICU for hypotension responsive to fluids, then 
transferred to the floor once his hypotension resolved. He did 
well on meropenem and completed a course on ___.

ACTIVE ISSUES
=============
#Sepsis/UTI/Suprapubic catheter
Patient was found to be hypotensive ___ E. coli UTI that was 
sensitive to Bactrim, Zosyn, Meropenem, Ertapenem, Amikacin. Had 
leukocytosis to 11.9 on admission that became normal on ___. 
CT Chest was negative for pneumonia, CT Abdomen negative for any 
other infectious source. We were unable to confirm when 
patient's last suprapubic catheter exchange was, so it was 
exchanged here on ___. He was started on IV meropenem on 
___ for a 7-day course (last ___. His BCx showed no 
growth to date on discharge. A midline was placed on ___ so 
patient could complete his antibiotic course at his facility; 
however, patient's daughter preferred that he completed his 
antibiotic course in the hospital. Patient completed his 7-day 
course of meropenem on ___, and his midline was pulled prior 
to discharge. 

#Encephalopathy/Vascular dementia
Thought likely ___ sepsis iso vascular dementia. Non-con CT Head 
negative for acute intracranial process. Electrolytes were WNL, 
and patient had not started any new medications recently. He was 
at baseline per his daughter prior to discharge.

#ESRD on HD TTS/Dislodged tunneled dialysis catheter
There was a question of whether patient's catheter became 
dislodged. ___ evaluated the catheter on ___, reported not 
dislodged, added sutures with no concern for contamination, and 
stated that it was working properly. Patient continued on his 
regular HD schedule. 

#Normocytic normochromic anemia
Patient received 1 unit of pRBCs n ___ for Hgb of 5.8. Thought 
likely anemia of chronic disease ___ ESRD. There was no evidence 
of acute blood loss and CT Abdomen was negative for bleed. He 
had a normal total bilirubin so hemolysis thought to be 
unlikely. There were no schistocytes on his smear. Iron studies 
were done, but they were thought to be unreliable as they were 
done after patient received a unit of blood. His absolute 
reticulocyte count was 0.07, so he had inappropriate response to 
anemia. He continued to receive Epogen with HD. His Hgb 
uptrended and remained in 7's upon discharge.

#Thrombocytopenia
Patient's platelets intermittently dropped, thought likely ___ 
ESRD. Upon discharge they were WNL.

#Constipation
Patient given bowel regimen. 

CHRONIC ISSUES
==============
#Type 2 Diabetes Mellitus
His Humalog ISS was continued.

#Asthma
His albuterol nebs PRN were continued.

#Glaucoma
His latanoprost and bimatoprost were continued.

TRANSITIONAL ISSUES
===================
[] Goals of care - Please re-assess family and patient's desire 
for hospice care; unclear if daughter fully understands what 
hospice care means, especially since patient is still full code.
[] Suprapubic catheter - Catheter was exchanged by urology on 
___.
[] Please repeat CBC on ___. Discharge Hgb: 8.1

CORE MEASURES
=============
#CONTACT: ___ (Daughter) ___
#CODE: Full, confirmed
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2. Ascorbic Acid ___ mg PO DAILY  
3. LORazepam 0.5 mg PO Q8H:PRN anxiety  
4. Bimatoprost 0.03% Ophth (*NF*) 1 drop Other QHS  
5. Ferrous GLUCONATE 240 mg PO DAILY  
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7. Calcium Carbonate 1250 mg PO DAILY  
8. Miralax (polyethylene glycol 3350) 17 gram oral DAILY:PRN  
9. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma  
10. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
11. LORazepam 0.5 mg PO 3X/WEEK (___)  
12. Melatin (melatonin) 3 mg oral QPM  

 
Discharge Medications:
1.  Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___.  LORazepam 0.5 mg PO Q8H:PRN teeth grinding 
use sparingly and hold if somnolent  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Bimatoprost  0.03%  Ophth  (*NF*) 1 drop Other QHS  
7.  Calcium Carbonate 1250 mg PO DAILY  
8.  Ferrous GLUCONATE 240 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Melatin (melatonin) 3 mg oral QPM  
11.  Miralax (polyethylene glycol 3350) 17 gram oral DAILY:PRN  
12.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Urinary tract infection
Delirium

SECONDARY DIAGNOSES
===================
End stage renal disease
Anemia of chronic disease
Type 2 Diabetes Mellitus
Vascular dementia
Asthma
Glaucoma

 
Discharge Condition:
Mental Status: Confused - always - knows his name and that he's 
in a hospital.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had an infection 
in your urinary system, and you were more confused than usual.

WHAT WAS DONE WHILE I WAS HERE?
-You were given antibiotics to treat the infection in your 
urinary system.
-Your foley catheter was exchanged.
-You continued on your regular hemodialysis schedule of ___, 
___.
-A new line was placed in your left arm so you could receive the 
rest of your antibiotics.
-You were given some blood to increase your blood counts.

WHAT DO I NEED TO DO ONCE I LEAVE?
-Please continue taking your medications as before.
-Please continue on your regular hemodialysis schedule.

Be well,

Your ___ Care Team
 
Followup Instructions:
___